US08022062B2
7-Chloro-6-(4-cycloheptyloxybenzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 423 to react 6-(4-acetoxybenzylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine with cycloheptanol. Use a method similar to the General Procedure 1-4 to give the title compound as a white solid. MS (ES+) m/z: 416 (M+H)+.

reactant | 6-(4-acetoxybenzylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(=O)OC1=CC=C(CSC2=C(C=CC=3CCN(CCC32)C(=O)OC(C)(C)C)Cl)C=C1 | C24H28ClNO4S
reactant | cycloheptanol | C1(CCCCCC1)O | C7H14O
product | 7-Chloro-6-(4-cycloheptyloxybenzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=CC=C(C=C1)OC1CCCCCC1 | InChI=1S/C24H30ClNOS.ClH/c25-23-12-9-19-13-15-26-16-14-22(19)24(23)28-17-18-7-10-21(11-8-18)27-20-5-3-1-2-4-6-20;/h7-12,20,26H,1-6,13-17H2;1H
